US04154834
2-[3-(5-Methyl-4-imidazolylmethylthio)propylamino]-5-(3-pyridylmethyl)-4-pyrimidone
An intimate mixture of 5-(3-pyridylmethyl)-2-methylthio-4-pyrimidone and 3-(5-methyl-4-imidazolylmethylthio)propylamine is heated at 130°-135° for 7 hours. The cool mixture is triturated with hot water and treated with dilute ethanolic HCl to give the trihydrochloride of the title compound.

reactant | 5-(3-pyridylmethyl)-2-methylthio-4-pyrimidone | N1=CC(=CC=C1)CC=1C(NC(=NC1)SC)=O | C11H11N3OS
reactant | 3-(5-methyl-4-imidazolylmethylthio)propylamine | CC1=C(N=CN1)CSCCCN | C8H15N3S
product | 2-[3-(5-Methyl-4-imidazolylmethylthio)propylamino]-5-(3-pyridylmethyl)-4-pyrimidone | CC1=C(N=CN1)CSCCCNC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C18H22N6OS
